US09233956B2
Step E: 2-Propen-1-yl {3-[(2-chloro-4-pyrimidinyl)acetyl]-2,4-difluorophenyl}carbamate
Following a procedure analogous to the procedure described in Intermediate 11 using methyl 2,6-difluoro-3-{[(2-propen-1-yloxy)carbonyl]amino}benzoate (80 g, 295 mmol) and 2-chloro-4-methylpyrimidine (41.6 g, 324 mmol) the title compound of Step E was obtained (65 g, 60.2% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 9.49-9.60 (m, 1H), 8.72-8.77 (m, 0.3H), 8.58-8.64 (m, 0.6H), 7.57-7.83 (m, 2H), 7.15-7.25 (m, 1H), 5.89-6.01 (m, 1H), 5.75-5.82 (m, 0.6H), 5.20-5.40 (m, 2H), 4.55-4.62 (m, 2H), m/z (ES+): 368 [M+H]+.

reactant | methyl 2,6-difluoro-3-{[(2-propen-1-yloxy)carbonyl]amino}benzoate | 295 mmol, 80 g | FC1=C(C(=O)OC)C(=CC=C1NC(=O)OCC=C)F | C12H11F2NO4
reactant | 2-chloro-4-methylpyrimidine | 324 mmol, 41.6 g | ClC1=NC=CC(=N1)C | C5H5ClN2
product | 2-Propen-1-yl {3-[(2-chloro-4-pyrimidinyl)acetyl]-2,4-difluorophenyl}carbamate | 60.2% yield | ClC1=NC=CC(=N1)CC(=O)C=1C(=C(C=CC1F)NC(OCC=C)=O)F | C16H12ClF2N3O3
